US04470988
A solution of 3-[(5-carbobenzyloxyamino-1-(S)-methoxycarbonylpentyl)amino]-1-ethoxycarbonylmethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one (isomer B) (3.2 g) in methanol (20 ml) is added to a solution of sodium hydroxide (1.0 g) in water (3 ml). The reaction mixture is stirred at room temperature for 2 hours then acidified by the addition of 2N hydrochloric acid. The solution is evaporated under reduced pressure to give 3-[(5-benzyloxycarbonylamino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one (Isomer B).

reactant | 3-[(5-carbobenzyloxyamino-1-(S)-methoxycarbonylpentyl)amino]-1-ethoxycarbonylmethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one | 3.2 g | C(=O)(OCC1=CC=CC=C1)NCCCC[C@@H](C(=O)OC)NC1C(N(C2=C(CCC1)C=CC=C2)CC(=O)OCC)=O | C30H39N3O7
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | 3-[(5-benzyloxycarbonylamino-1-(S)-carboxypentyl)amino]-1-carboxymethyl-3,4,5,6-tetrahydro-1-benzazocin-2-(1H)-one | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)O)NC1C(N(C2=C(CCC1)C=CC=C2)CC(=O)O)=O | C27H33N3O7
